US07446222B2
2-Benzyloxy-[1,1′;2′,1″]terphenyl-4″-sulfonic acid (1-phenyl-methanoyl)-amide
A mixture of 2′-benzyloxy-biphenyl-2-boronic acid (100 mg, 0.33 mmol), 4-bromo-N-(1-phenyl-methanoyl)-benzenesulfonamide (95 mg, 0.28 mmol), potassium carbonate (309 mg, 2.24 mmol), and tetrakis(triphenylphosphine)palladium(0) (38 mg, 0.033 mmol) in 1:1 toluene/ethanol (5 ml) was stirred and heated at 90° C. under nitrogen for 16 hours. After cooling the mixture was diluted with ethyl acetate and water. The organic phase was dried and evaporated. The residue was chromatographed eluting with ethyl acetate/iso-hexane (1:4-1:1) to give the title compound as a colourless solid. (40 mg 23%).

reactant | 2′-benzyloxy-biphenyl-2-boronic acid | 0.33 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1C(=CC=CC1)B(O)O | C19H17BO3
reactant | 4-bromo-N-(1-phenyl-methanoyl)-benzenesulfonamide | 0.28 mmol, 95 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(=O)C1=CC=CC=C1 | C13H10BrNO3S
reactant | potassium carbonate | 2.24 mmol, 309 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene ethanol | 5 ml | C1(=CC=CC=C1)C.C(C)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.033 mmol, 38 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Benzyloxy-[1,1′;2′,1″]terphenyl-4″-sulfonic acid (1-phenyl-methanoyl)-amide | C1(=CC=CC=C1)C(=O)NS(=O)(=O)C1=CC=C(C=C1)C=1C(=CC=CC1)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C32H25NO4S
